US07576089B2
2-Bromo-5-(methoxymethyl)pyridine
2-Bromo-5-bromomethyl-pyridine, 4 (3.58 g, 14.3 mmoles) was dissolved in methanol (20 mL) under nitrogen. Sodium methoxide (0.89 g, 15.7 mmoles, 95%) was added and the mixture stirred at room temperature. After 3 hours, the methanol was rotovapped off and the residue dissolved in dichloromethane and washed with water. The organic extract was adsorbed onto silica gel and chromatographed. The column was eluted with a gradient of hexane to 20% ethyl acetate/hekane. Pure fractions were combined and concentrated to provide the title compound as a colorless oil, 2.62 g (90%).

reactant | 2-Bromo-5-bromomethyl-pyridine | BrC1=NC=C(C=C1)CBr | C6H5Br2N
reactant | Sodium methoxide | 15.7 mmoles, 0.89 g | C[O-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Bromo-5-(methoxymethyl)pyridine | BrC1=NC=C(C=C1)COC | C7H8BrNO
